Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10][c:11]1[OH:12].[cH:13]1[cH:14][cH:15][c:16]([CH2:17][CH:18]2[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]2)[cH:24][cH:25]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10][c:11]1[OH:12])[N:21]1[CH2:20][CH2:19][CH:18]([CH2:17][c:16]2[cH:15][cH:14][cH:13][cH:25][cH:24]2)[CH2:23][CH2:22]1,[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10][c:11]1[OH:12].[cH:13]1[cH:14][cH:15][c:16]([CH2:17][CH:18]2[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]2)[cH:24][cH:25]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10][c:11]1[OH:12])[N:21]1[CH2:20][CH2:19][CH:18]([CH2:17][c:16]2[cH:15][cH:14][cH:13][cH:25][cH:24]2)[CH2:23][CH2:22]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(21, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([NH:8][c:9]2[n:10][cH:11][c:12]3[c:13]([n:14]2)[N:15]([CH:16]2[CH2:17][CH2:18][CH2:19][CH2:20]2)[CH2:21][C:22]([F:23])([F:24])[C:25](=[O:26])[N:27]3[CH3:28])[cH:29][c:30]1[F:31])=[O:32].[CH3:33][C:34]([CH3:35])([CH3:36])[O:37][C:38](=[O:39])[N:40]1[CH2:41][CH2:42][CH:43]([NH2:44])[CH2:45][CH2:46]1>>[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([NH:8][c:9]2[n:10][cH:11][c:12]3[c:13]([n:14]2)[N:15]([CH:16]2[CH2:17][CH2:18][CH2:19][CH2:20]2)[CH2:21][C:22]([F:23])([F:24])[C:25](=[O:26])[N:27]3[CH3:28])[cH:29][c:30]1[F:31])(=[O:32])[NH:44][CH:43]1[CH2:42][CH2:41][N:40]([C:38]([O:37][C:34]([CH3:33])([CH3:35])[CH3:36])=[O:39])[CH2:46][CH2:45]1,[OH:101][C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([NH:8][c:9]2[n:10][cH:11][c:12]3[c:13]([n:14]2)[N:15]([CH:16]2[CH2:17][CH2:18][CH2:19][CH2:20]2)[CH2:21][C:22]([F:23])([F:24])[C:25](=[O:26])[N:27]3[CH3:28])[cH:29][c:30]1[F:31])=[O:32].[CH3:33][C:34]([CH3:35])([CH3:36])[O:37][C:38](=[O:39])[N:40]1[CH2:41][CH2:42][CH:43]([NH2:44])[CH2:45][CH2:46]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([NH:8][c:9]2[n:10][cH:11][c:12]3[c:13]([n:14]2)[N:15]([CH:16]2[CH2:17][CH2:18][CH2:19][CH2:20]2)[CH2:21][C:22]([F:23])([F:24])[C:25](=[O:26])[N:27]3[CH3:28])[cH:29][c:30]1[F:31])(=[O:32])[NH:44][CH:43]1[CH2:42][CH2:41][N:40]([C:38]([O:37][C:34]([CH3:33])([CH3:35])[CH3:36])=[O:39])[CH2:46][CH2:45]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (44, 1), ([1, 32], 32), (303, 44.1), ([44.1, 44], 44), (32, [32, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([CH3:4])[n:5][c:6]([CH2:7][CH2:8][c:9]2[c:10]([CH2:11][CH2:12][CH2:13][CH3:14])[n:15][o:16][c:17]2[CH3:18])[s:19]1)=[O:20].[NH2:21][CH:22]1[CH2:23][CH2:24][O:25][CH2:26]1>>[C:1]([c:2]1[c:3]([CH3:4])[n:5][c:6]([CH2:7][CH2:8][c:9]2[c:10]([CH2:11][CH2:12][CH2:13][CH3:14])[n:15][o:16][c:17]2[CH3:18])[s:19]1)(=[O:20])[NH:21][CH:22]1[CH2:23][CH2:24][O:25][CH2:26]1,[OH:101][C:1]([c:2]1[c:3]([CH3:4])[n:5][c:6]([CH2:7][CH2:8][c:9]2[c:10]([CH2:11][CH2:12][CH2:13][CH3:14])[n:15][o:16][c:17]2[CH3:18])[s:19]1)=[O:20].[NH2:21][CH:22]1[CH2:23][CH2:24][O:25][CH2:26]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([CH3:4])[n:5][c:6]([CH2:7][CH2:8][c:9]2[c:10]([CH2:11][CH2:12][CH2:13][CH3:14])[n:15][o:16][c:17]2[CH3:18])[s:19]1)(=[O:20])[NH:21][CH:22]1[CH2:23][CH2:24][O:25][CH2:26]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (21, 1), ([1, 20], 20), (303, 21.1), ([21.1, 21], 21), (20, [20, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[CH:3]1[CH2:4][N:5]([CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH:14]1[OH:15].[NH3:16]>>[C:1](=[O:2])([CH:3]1[CH2:4][N:5]([CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH:14]1[OH:15])[NH2:16],CC[O:101][C:1](=[O:2])[CH:3]1[CH2:4][N:5]([CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH:14]1[OH:15].[NH3:16]>>[C:1](=[O:2])([CH:3]1[CH2:4][N:5]([CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH:14]1[OH:15])[NH2:16],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
